US08877782B2
{6-[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone
As described for example 301, [6-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (108 mg, 0.3 mmol) was converted, using morpholine instead of 4-aminotetrahydropyran to the title compound (18 mg, 15%) which was obtained as a white solid. MS: m/e=415.1 [M+H]+.

reactant | 6-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mmol, 108 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=C(C=C1)Cl)=O | C17H14ClN3O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | {6-[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone | 18 mg, 15% | ClC=1C=CC(=NC1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCOCC1)C | C20H19ClN4O4
